* /home/ash98/downloads/esim-master/src/subcircuitlibrary/lm_358/lm_358.cir

.include Ideal_npn2.lib
.include Ideal_pnp2.lib
q3 net-_q2-pad1_ net-_q2-pad1_ net-_q13-pad1_ Ideal_npn2
q2 net-_q2-pad1_ net-_q1-pad3_ net-_q2-pad3_ Ideal_pnp2
q4 net-_c2-pad2_ net-_q4-pad2_ net-_q2-pad3_ Ideal_pnp2
q1 gnd /inv net-_q1-pad3_ Ideal_pnp2
q6 gnd /non-inv net-_q4-pad2_ Ideal_pnp2
q5 net-_c2-pad2_ net-_q2-pad1_ net-_q13-pad1_ Ideal_npn2
q11 net-_q11-pad1_ net-_c2-pad1_ net-_q11-pad3_ Ideal_npn2
q12 net-_q11-pad1_ net-_q11-pad3_ net-_q10-pad2_ Ideal_npn2
q8 net-_q11-pad1_ net-_q7-pad3_ net-_q8-pad3_ Ideal_npn2
q9 net-_c2-pad1_ net-_q8-pad3_ net-_q13-pad1_ Ideal_npn2
q10 net-_c2-pad1_ net-_q10-pad2_ net-_q10-pad3_ Ideal_npn2
r2  net-_q10-pad2_ net-_q10-pad3_ 30
q13 net-_q13-pad1_ net-_c2-pad1_ net-_q10-pad3_ Ideal_pnp2
q7 net-_q13-pad1_ net-_c2-pad2_ net-_q7-pad3_ Ideal_pnp2
r1  net-_q8-pad3_ net-_q13-pad1_ 10k
q16 net-_q15-pad1_ net-_q15-pad1_ net-_q13-pad1_ Ideal_npn2
q15 net-_q15-pad1_ net-_q14-pad3_ net-_q15-pad3_ Ideal_pnp2
q17 net-_c1-pad2_ net-_q17-pad2_ net-_q15-pad3_ Ideal_pnp2
q14 gnd /inv net-_q14-pad3_ Ideal_pnp2
q19 gnd /non-inv net-_q17-pad2_ Ideal_pnp2
q18 net-_c1-pad2_ net-_q15-pad1_ net-_q13-pad1_ Ideal_npn2
q24 net-_q11-pad1_ net-_c1-pad1_ net-_q24-pad3_ Ideal_pnp2
q25 net-_q11-pad1_ net-_q24-pad3_ net-_q23-pad2_ Ideal_npn2
q21 net-_q11-pad1_ net-_q20-pad3_ net-_q21-pad3_ Ideal_pnp2
q22 net-_c1-pad1_ net-_q21-pad3_ net-_q13-pad1_ Ideal_pnp2
q23 net-_c1-pad1_ net-_q23-pad2_ net-_q23-pad3_ Ideal_pnp2
r4  net-_q23-pad2_ net-_q23-pad3_ 30
q26 net-_q13-pad1_ net-_c1-pad1_ net-_q23-pad3_ Ideal_pnp2
q20 net-_q13-pad1_ net-_c1-pad2_ net-_q20-pad3_ Ideal_pnp2
r3  net-_q21-pad3_ net-_q13-pad1_ 10k
* u1  net-_q10-pad2_ /inv /non-inv net-_q13-pad1_ ? /inv net-_q23-pad2_ net-_q11-pad1_ port
r6  net-_q11-pad1_ net-_q2-pad3_ 2500k
r8  net-_q11-pad1_ net-_q7-pad3_ 3750k
r10  net-_q11-pad1_ net-_c2-pad1_ 1500k
r11  net-_q23-pad2_ net-_q13-pad1_ 1500k
r12  net-_q10-pad2_ net-_q13-pad1_ 1500k
r5  net-_q11-pad1_ net-_q15-pad3_ 2500k
r7  net-_q11-pad1_ net-_q20-pad3_ 3750k
r9  net-_q11-pad1_ net-_c1-pad1_ 1500k
c2  net-_c2-pad1_ net-_c2-pad2_ 100p
c1  net-_c1-pad1_ net-_c1-pad2_ 100p
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
